US04515727
5.7 of 6-chlorohex-3-yn-1-ol t-butyldimethylsilyl ether in 50 ml of ethanol was hydrogenated under 1 atmosphere of hydrogen in the presence of 0.3 g of Lindlar catalyst until 370 ml of hydrogen had been absorbed. The catalyst was removed by filtration through celite and the ethanol evaporated in vacuo. The crude product was chromatographed on 200 g of silica gel, eluting with 1-4% ether/hexane. Distillation of the appropriate fractions gave 3.7 g of 6-chlorohex-3Z-en-1-ol t-butyldimethylsilyl ether, bp 80° C./0.5 mm.

reactant | 6-chlorohex-3-yn-1-ol t-butyldimethylsilyl ether | [Si](C)(C)(C(C)(C)C)OCCC#CCCCl | C12H23ClOSi
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 370 ml | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Lindlar catalyst | 0.3 g | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
product | 6-chlorohex-3Z-en-1-ol t-butyldimethylsilyl ether | 3.7 g | [Si](C)(C)(C(C)(C)C)OCC\C=C/CCCl | C12H25ClOSi
